US06211203B1
1. N-(3,5-Dichloropyrid-4-yl)-7-methoxy-2-methylbenzofuran-4-carboxamide
1.5 g of sodium hydride (80% strength) were added in small portions to a solution of 4.1 g of 4-amino3,5-dichloropyridine in 50 ml of tetrahydrofuran and the suspension was stirred for about 0.5 h until evolution of hydrogen had ended. In parallel to this, 4.1 g of 7-methoxy-2-methylbenzofuran-4-carboxylic acid was stirred at 80° C. for 3 h with 7.25 ml of thionyl chloride in 40 ml of toluene and the mixture was then evaporated in vacuo. About 20 ml of toluene were added to the residue and the solution was evaporated again in vacuo. The residue was then taken up in 50 ml of tetrahydrofuran and this solution was added dropwise at RT to the prepared suspension. After reaction was complete, the mixture was stirred into about 200 ml of ice water, treated with 30 ml of 2 N hydrochloric acid and extracted with ethyl acetate. This extract was dried over calcined sodium sulfate and evaporated in vacuo. The residue was crystallized from ethyl acetate/petroleum spirit (b.p. 50-80° C.): m.p. 233° C.

reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | 4-amino3,5-dichloropyridine | 4.1 g | NC1=C(C=NC=C1Cl)Cl | C5H4Cl2N2
reactant | hydrogen | [H][H] | H2
reactant | 7-methoxy-2-methylbenzofuran-4-carboxylic acid | 4.1 g | COC=1C=CC(=C2C=C(OC21)C)C(=O)O | C11H10O4
reactant | thionyl chloride | 7.25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | 2 N, 30 ml | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,5-Dichloropyrid-4-yl)-7-methoxy-2-methylbenzofuran-4-carboxamide | ClC=1C=NC=C(C1NC(=O)C=1C=CC(=C2C1C=C(O2)C)OC)Cl | C16H12Cl2N2O3
